US07897766B2
1H-Indazole-4-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 1H-indazole-4-carboxylic acid according to methods A and C. 1H NMR (300 MHz, methanol-d4) δ ppm 2.08-2.34 (m, 5H), 2.51 (s, 2H), 3.42-3.64 (m, 4H), 3.88 (d, J=12.5 Hz, 2H), 4.33 (s, 1H), 7.42-7.52 (m, 1H), 7.58-7.64 (m, 1H), 7.72 (d, J=8.5 Hz, 1H), 8.33 (s, 1H). MS (DCI/NH3) m/z 297.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 1H-indazole-4-carboxylic acid | N1N=CC=2C(=CC=CC12)C(=O)O | C8H6N2O2
reactant | NH3 | N | H3N
product | 1H-Indazole-4-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2C=3C=NNC3C=CC2 | InChI=1S/C17H20N4O.ClH/c22-17(13-2-1-3-15-14(13)6-18-20-15)19-16-11-4-10-5-12(16)9-21(7-10)8-11;/h1-3,6,10-12,16H,4-5,7-9H2,(H,18,20)(H,19,22);1H/t10?,11?,12?,16-;
